US03962223
The catalyst was added to a solution of 406 mg of DL cis 7-p-nitrophenylacetamido-3-isopropyl-3cepheme-4-carboxylic acid in 3.8 ml of dimethylformamide and 1.12 ml of N hydrochloric acid and a current of hydrogen was passed therethrough until saturated. The mixture was filtered and the filter was washed with a 50--50 water-ethanol solution containing a few drops of hydrochloric acid. The filtrate was evaporated to dryness and the residue was taken up in 3 ml of water. Ammonium formate was added thereto to a pH of 4.5 and the mixture was stirred 5 minutes and vacuum filtered. The precipitate was empasted with water and dried to obtain DL cis 7-p-aminophenylacetamido-3-isopropyl-3-cepheme-4-carboxylic acid melting at 150°C with decomposition. The product occurred as ocre crystals slightly soluble in water, ethanol and chloroform and insoluble in ether.

reactant | cis 7-p-nitrophenylacetamido-3-isopropyl-3cepheme-4-carboxylic acid | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)N[C@@H]1[C@@H]2N(C(=C(CS2)C(C)C)C(=O)O)C1=O | C18H19N3O6S
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 3.8 ml | CN(C=O)C | C3H7NO
product | cis 7-p-aminophenylacetamido-3-isopropyl-3-cepheme-4-carboxylic acid | NC1=CC=C(C=C1)CC(=O)N[C@@H]1[C@@H]2N(C(=C(CS2)C(C)C)C(=O)O)C1=O | C18H21N3O4S
